US05359091
(E)-N-(6-Methyl-2-octen-4-ynyl)-N-ethyl-3-[3-(3-thienyl)benzyloxy]benzylamine
To a solution of 100 mg (0.25 mmol) of (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-[3-(3thienyl)benzyloxy]benzylamine in 2 ml of tetrahydrofuran were added 6.0 mg (0.023 mmol) of triphenylphosphine, 4.0 mg (0.023 mmol) of palladium chloride, 6.0 mg (0.032 mmol) of copper (i) iodide, 100 μl (1 mmol) of n-butylamine and 0.5 ml (5.12 mmol) of 3-methyl-1-pentyne. The mixture was stirred for 48 hours at room temperature, and concentrated under reduced pressure. The residue was treated with a mixture of ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=9/1). The desired fractions were put together and concentrated under reduced pressure. The residue was subjected to thin layer chromatography to obtain 79 mg (yield: 71%) of the above identified compound as a brown oil.

reactant | (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-[3-(3thienyl)benzyloxy]benzylamine | 0.25 mmol, 100 mg | Cl/C=C/CN(CC)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C1=CSC=C1 | C23H24ClNOS
reactant | triphenylphosphine | 0.023 mmol, 6.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 1 mmol, 100 μl | C(CCC)N | C4H11N
reactant | 3-methyl-1-pentyne | 5.12 mmol, 0.5 ml | CC(C#C)CC | C6H10
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | palladium chloride | 0.023 mmol, 4.0 mg | [Pd](Cl)Cl
catalyst | copper (i) iodide | 0.032 mmol, 6.0 mg | [Cu]I
product | (E)-N-(6-Methyl-2-octen-4-ynyl)-N-ethyl-3-[3-(3-thienyl)benzyloxy]benzylamine | yield: 71% | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C1=CSC=C1)CC | C29H33NOS
